US04673746
A solution of 5-chloro-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole (1 g) and boron tribromide (1.3 l ml) in dichloroethane (30 ml) is refluxed for about 24 hours. The reaction mixture is poured onto ice-water and extracted with dichloromethane to give a solid of 5-chloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole, mp 180°-182° C.

reactant | 5-chloro-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | 1 g | ClC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C1)OC | C14H9ClFNO2
reactant | boron tribromide | 1.3 l | B(Br)(Br)Br | BBr3
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | 5-chloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | ClC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C1)O | C13H7ClFNO2
